data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_369322_1,[C:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[C:6]([H:16])[H:17])/[C:5](=[N:8]/[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:5](\[N:8]([C:3]([N:4]([H:10])[H:11])=[C:6]([H:16])[H:17])[O:7][H:9])[H:12])([H:13])([H:14])[H:15],62.83659499997398
MR_622876_1,[C:1](/[N:2]=[N:5]/[H:9])([C:4](/[C:3]([N:6]([H:11])[H:12])=[N:7]\[H:10])=[N:8]/[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:2]([N:5]([H:9])[H:10])[N:7]=[C:3]([N:6]([H:11])[H:12])/[C:4]1=[N:8]\[H:13],58.5532800000162
MR_194183_0,[C:1](/[N:3]=[C:4](/[C:2]([H:17])([H:18])[H:19])[C:7]([N:5]([H:9])[H:10])(/[C:6](=[N:8]\[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:3](/[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7](/[N:5]([H:9])[H:10])[H:13])/[C:6](=[N:8]\[H:11])[H:12])([H:14])([H:15])[H:16],66.98876249997753
MR_644933_0,[C:1]([O:6][N:3](/[C:4]([O:7][H:9])=[N:8]/[C:2]([H:15])([H:16])[H:17])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([O:6][C@@:4]1([O:7][H:9])[N:3]([N:5]([H:10])[H:11])[N:8]1[C:2]([H:15])([H:16])[H:17])([H:12])([H:13])[H:14],26.042505000023084
MR_21763_0,[C:1]1([H:8])([H:9])[C:2](=[C:4]([H:10])[H:11])[O:5][C:3]([H:7])=[N:6]1>>[C:1]1([H:8])([H:9])[C:2](=[C:4]([H:10])[H:11])[N:6]1[C:3](=[O:5])[H:7],64.9104824999813
MR_428789_1,[C@@:1]1(/[C:6]([C:5]([H:19])([H:20])[H:21])=[C:7](\[O:9][H:11])[H:15])([O:8][H:10])[C@@:2]([C:4]([H:16])([H:17])[H:18])([H:12])[C:3]1([H:13])[H:14]>>[C:1]1([O:8][H:10])=[C:6]([C:5]([H:19])([H:20])[H:21])[C@@:7]([O:9][H:11])([H:15])[C@@:2]([C:4]([H:16])([H:17])[H:18])([H:12])[C:3]1([H:13])[H:14],53.99825750003103
MR_46559_0,[C:1]1(/[C:6]([C:4]([H:14])([H:15])[H:16])=[C:7](\[C:5]([H:17])([H:18])[H:19])[H:13])([H:8])[C:2]([H:9])([H:10])[C:3]1([H:11])[H:12]>>[C:1]1([H:8])=[C:6]([C:4]([H:14])([H:15])[H:16])[C@:7]([C:5]([H:17])([H:18])[H:19])([H:13])[C:3]([H:11])([H:12])[C:2]1([H:9])[H:10],65.47021249999489
MR_285416_1,[C:1](/[C:3](=[C:4](/[C:2](=[O:8])[H:10])[H:12])[H:11])([C:5](=[C:6]([H:14])[H:15])[H:13])=[N:7]\[H:9]>>[C:1]1(=[N:7]/[H:9])\[C:3]2([H:11])[C:4]([H:12])=[C:2]([H:10])[O:8][C:6]([H:14])([H:15])[C:5]12[H:13],58.976842500016886
MR_28554_1,[C:1](\[C:3]([C:4]([C:5]([C:2]([H:10])([H:11])[H:12])=[C:7]([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])(=[N:6]\[H:9])[H:8]>>[C:1]1([N:6]([H:9])[H:10])([H:8])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5](=[C:2]([H:11])[H:12])[C:7]1([H:17])[H:18],50.81369499997436
MR_622453_1,[C:1]([O:8][N:4]([C:2]([H:16])([H:17])[H:18])/[C:6]([N:5]([C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])=[N:9]/[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:8]/[C:6]([N:4]([C:2]([H:16])([H:17])[H:18])[N:5]([C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])=[N:9]/[H:12])([H:13])([H:14])[H:15],66.75658750002867
MR_277143_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:5]([C:4]([O:7][H:11])=[O:8])=[O:9])[O:6][H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C@@:4]1([O:7][H:11])[C:5](=[O:9])[O:8]1)[O:6][H:10],61.14046250001167
MR_313343_0,[C:1](/[C:4](=[C:3]([C:2](=[C:8](\[N:7]([H:15])[H:16])[H:17])\[O:9][H:10])/[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([H:18])([H:19])[H:20]>>[C:1]([C:4]1([N:6]([H:13])[H:14])[C:3]([N:5]([H:11])[H:12])=[C:2]([O:9][H:10])[C:8]1([N:7]([H:15])[H:16])[H:17])([H:18])([H:19])[H:20],39.30785499998905
MR_383706_0,[C:1]1([O:6][H:8])([O:7][H:9])[C:3]([H:12])([H:13])[C:2]([H:10])([H:11])[N:5]1[C:4]([H:14])([H:15])[H:16]>>[C:1]([C:3]([C:2]([N:5]([C:4]([H:14])([H:15])[H:16])[H:9])([H:10])[H:11])([H:12])[H:13])([O:6][H:8])=[O:7],30.20157499997353
MR_645715_1,[C@:1]1([N:5]([H:10])[H:11])([H:9])[N:3]([H:8])[O:6][C:4]([C:2]([H:12])([H:13])[H:14])=[N:7]1>>[C:1](\[N:5]([H:10])[H:11])(=[N:7]/[C@:4]1([C:2]([H:12])([H:13])[H:14])[N:3]([H:8])[O:6]1)[H:9],54.65023000002574
MR_418508_0,[C:1]([O:4][O:3]/[C:2](=[N:5]\[H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([O:4][C:2]([O:3][H:7])[N:5][H:6])([H:8])([H:9])[H:10],72.35639749997986
MR_615214_2,[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])=[C:4]([N:3]([N:6]([H:10])[H:11])/[C:8](=[N:9]/[H:14])[H:15])[N:7]([H:12])[H:13])([H:16])([H:17])[H:21]>>[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])(/[C:4](=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])/[C:8](=[N:9]/[H:14])[H:15])([H:16])([H:17])[H:21],40.85966249999473
MR_516301_1,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:5]([O:8][H:11])=[N:9]/[N:6]([H:12])[H:13])[O:7][H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([O:8][H:11])[N:9]([N:6]([H:12])[H:13])[H:10])=[O:7],45.11787750001588
MR_361038_0,[C@@:1]1([C:3]([C:6]([N:7]([H:11])[H:12])=[O:9])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C@@:2]([C:5]([H:18])([H:19])[H:20])([H:10])[O:8]1>>[C:1]1([C:3]([C:6]([N:7]([H:11])[H:12])=[O:9])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[O:8]1,62.016452500011496
